US04638088
Part A: Preparation of 4-(2-chloro-4-phenylphenoxy)-2,5-dimethyl-3-chloronitrobenzene
Into a 100 milliliter round bottom flask equipped with a thermometer, magnetic stirrer and condenser was added 12.0 grams (0.054 moles) of 2,5-dimethyl-3,4-dichloronitrobenzene, 14.5 grams (0.071 moles) of 2-chloro-4-phenylphenol, 12.0 grams (0.087 moles) of potassium carbonate and 20 milliliters of dimethylformamide (DMF) under a nitrogen atmosphere at ambient temperature. The reaction mixture was then heated in an oil bath at a temperature of 110° C.-120° C. for a periof of 72 hours. After cooling to ambient temperature, the reaction mixture was filtered through celite and concentrated (DMF removed under vaccum) to give an amber oil. The amber oil was dissolved in toluene and thereafter washed once with 4% sodium hydroxide, once with water and finally once with a saturated aqueous sodium chloride solution. The amber oil was then dried over sodium sulfate, concentrated (toluene removed under vacuum) and stirred into a hexane-ethyl acetate mixture (6:1 volume ratio). Crystallization from the hexane-ethyl acetate mixture and filtration afforded 15.02 grams of a tan powder having a melting point of 92.5° C.-94.0° C. Elemental analysis of the tan powder indicated the following:

reactant | 2,5-dimethyl-3,4-dichloronitrobenzene | 0.054 moles, 12.0 grams | CC1=C(C=C(C(=C1Cl)Cl)C)[N+](=O)[O-] | C8H7Cl2NO2
reactant | 2-chloro-4-phenylphenol | 0.071 moles, 14.5 grams | ClC1=C(C=CC(=C1)C1=CC=CC=C1)O | C12H9ClO
reactant | potassium carbonate | 0.087 moles, 12.0 grams | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 20 milliliters | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(2-chloro-4-phenylphenoxy)-2,5-dimethyl-3-chloronitrobenzene | 15.02 grams | ClC1=C(OC2=C(C(=C(C=C2C)[N+](=O)[O-])C)Cl)C=CC(=C1)C1=CC=CC=C1 | C20H15Cl2NO3
